US07612114B2
1-(2,4-Dimethoxyphenyl)-2-(4-methoxyphenyl)ethanone
Synthesized from 1,3-dimethoxybenzene (8.2 g) and 4-methoxyphenylacetyl chloride (10.0 g) according to an analogous synthetic method to Preparation Example 66,the title compound (8.0 g) was obtained.

reactant | 1,3-dimethoxybenzene | 8.2 g | COC1=CC(=CC=C1)OC | C8H10O2
reactant | 4-methoxyphenylacetyl chloride | 10.0 g | COC1=CC=C(C=C1)CC(=O)Cl | C9H9ClO2
product | 1-(2,4-Dimethoxyphenyl)-2-(4-methoxyphenyl)ethanone | 8.0 g | COC1=C(C=CC(=C1)OC)C(CC1=CC=C(C=C1)OC)=O | C17H18O4
